US07074819B2
Step 6) Synthesis of Methyl 8-[7-methoxy-3-(4-methoxyphenyl)-3-methylthiochroman-4-yl]octanate
To a solution of methyl 8-[7-Methoxy-3-(4-methoxyphenyl)-3-methylthiochroman-4-yl]-2-octenate (160 mg, 0.34 mmol) in methanol (3 ml) and tetrahydrofuran (1 ml) were added sodium borohydride (129 mg, 3.40 mmol) and nickel (1 ml) chloride hexahydrate (16 mg, 0.068 mmol) at 0° C., which was then stirred at the same temperature for 2 hours. After the reaction was completed, water was added to the reaction mixture, and the resulting mixture was extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate, and concentrated under reduced pressure to give a crude product. This crude product thus obtained was subjected to silica gel column chromatography (n-hexane:ethyl acetate=4:1) to give the title compound (118 mg, yield: 73%; (3RS,4RS):(3RS,4SR)=4:1).

reactant | methyl 8-[7-Methoxy-3-(4-methoxyphenyl)-3-methylthiochroman-4-yl]-2-octenate | 0.34 mmol, 160 mg | COC1=CC=C2C(C(CSC2=C1)(C)C1=CC=C(C=C1)OC)CCCCCC=CC(=O)OC | C27H34O4S
reactant | sodium borohydride | 3.40 mmol, 129 mg | [BH4-].[Na+]
reactant | water | O | H2O
reactant | n-hexane | CCCCCC | C6H14
solvent | methanol | 3 ml | CO | CH4O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
catalyst | nickel | 0.068 mmol, 1 ml, 16 mg | [Ni] | Ni
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl 8-[7-methoxy-3-(4-methoxyphenyl)-3-methylthiochroman-4-yl]octanate | 118 mg, yield: 73% | COC1=CC=C2C(C(CSC2=C1)(C)C1=CC=C(C=C1)OC)CCCCCCCC(=O)OC | C27H36O4S
